US06288086B1
1-Butyl-4-[4-(4--chlorophenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid was prepared starting from 1-butyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester (3.3 g, 6.9 mmol) dissolved in THF:methanol (3:1 150 ml) and 10 N NaOH (25 ml). The resulting reaction mixture was worked up as outlined in example 83. Yield 2.08 g (67%); white solid; mp 201° C.; MS: 451.9 (M+H)+

reactant | 1-butyl-4-[4-(4-chloro-phenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid ethyl ester | 6.9 mmol, 3.3 g | C(C)OC(=O)C1(CCN(CC1)CCCC)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C24H30ClNO5S
solvent | THF methanol | 150 ml | C1CCOC1.CO
solvent | NaOH | 10 N, 25 ml | [OH-].[Na+]
product | 1-Butyl-4-[4-(4--chlorophenoxy)-benzenesulfonyl]-piperidine-4-carboxylic acid | C(CCC)N1CCC(CC1)(C(=O)O)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)Cl | C22H26ClNO5S
